US04933405
A. Preparation of Zinc 2-Ethylhexyl Itaconate (6A)
To a 30 percent w/v aqueous dispersion of the mono-2-ethylhexyl itaconate is added 1 molar equivalent of sodium hydroxide as a 10 percent w/v aqueous solution (800 ml). After the stirred suspension clears, 0.5 molar equivalent (219 g) of zinc acetate dihydrate as a saturated aqueous solution is added with stirring. The supernatant liquid is separated from the precipitated zinc 2-ethylhexyl itaconate (6A).

reactant | mono-2-ethylhexyl itaconate | C(C(=C)CC(=O)[O-])(=O)OCC(CCCC)CC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | zinc acetate dihydrate | 219 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | Zinc 2-Ethylhexyl Itaconate | C(C(=C)CC(=O)[O-])(=O)OCC(CCCC)CC.[Zn+2].C(C)C(COC(C(=C)CC(=O)[O-])=O)CCCC | InChI=1S/2C13H22O4.Zn/c2*1-4-6-7-11(5-2)9-17-13(16)10(3)8-12(14)15;/h2*11H,3-9H2,1-2H3,(H,14,15);/q;;+2/p-2
